US08809389B2
Synthesis of 5-(propargyloxy)-6-propyl-benzo[1.3]dioxole
Following the same procedure as in Example 3 a) and b), but using 7.2 g (0.04 moles) of 5-hydroxy-6-propyl-benzo[1.3]dioxole, 5.92 g (0.04 moles) of anhydrous potassium carbonate in 40 ml of acetone were reacted with 5.95 g (0.04 moles) of a solution of propargyl bromide in toluene, (80% w/w).

reactant | 5-hydroxy-6-propyl-benzo[1.3]dioxole | 0.04 moles, 7.2 g | OC1=CC2=C(OCO2)C=C1CCC | C10H12O3
reactant | potassium carbonate | 0.04 moles, 5.92 g | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | C(C#C)Br | C3H3Br
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(propargyloxy)-6-propyl-benzo[1.3]dioxole | C(C#C)OC1=CC2=C(OCO2)C=C1CCC | C13H14O3
